.SUBCKT BSP130 1 2 3
* 1=drain  2=gate  3=source
Cgs  2 3 40.5E-12
Cgd1 2 4 135.8E-12
Cgd2 1 4 2.6E-12
M1 1 2 3 3 MOST1 W=28E-3 L=2E-6
M2 4 2 1 3 MOST2 W=28E-3 L=2E-6
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.95E-6 Rs=20E-3 Vto=1.5 Rd=6.276)
.MODEL MOST2 NMOS(Vto=-3.8 Kp=20.95E-6 Rs=20E-3)
.MODEL Dbody D(Is=7.368E-12 N=1.072 Rs=.8316 Cjo=150.3E-12 M=.5682
+              Vj=.3644 Bv=300 Ibv=10E-6 Tt=432.8E-9)
.ENDS